US07001897B2
t-Butyldiphenylsilyloxy-N-benzyloxycarbonyl-L-serine methyl ester (32.0 g, 65.1 mmol) (obtained as described in Reference Example 39(1)) in methanol (960 ml) was subjected to catalytic hydrogenation in the presence of 10% palladium on charcoal at room temperature for 2 hours. At the end of this time, the reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using methylene chloride:methanol (95:5) as the eluant to afford t-butyldiphenylsilyloxy-L-serine methyl ester (19.7 g, yield 85%) as a colorless oil. To a solution of the product (t-butyldiphenylsilyloxy-L-serine methyl ester) (19.7 g, 55.0 mmol) in methylene chloride (590 ml) were added carbon disulfide (6.62 ml, 110 mmol) and triethylamine (19.3 ml, 138 mmol) at room temperature and the mixture was stirred overnight. To the resulting mixture were added ethyl chloroformate (13.2 ml, 138 mmol) and triethylamine (19.3 ml, 138 mmol) and the mixture was stirred for 1 hour. After checking the completion of the reaction, methanol was added to the reaction mixture and the resulting mixture was stirred for 30 minutes. The reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using toluene as the eluant to afford (2S)-3-(t-butyldiphenylsilyloxy)-2-isothiocyanatopropionic acid methyl ester (14.8 g, yield 67%) as yellow crystals.

reactant | t-Butyldiphenylsilyloxy-N-benzyloxycarbonyl-L-serine methyl ester | 65.1 mmol, 32.0 g | COC([C@@H](N(C(=O)OCC1=CC=CC=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CO)=O | C28H33NO6Si
solvent | methanol | 960 ml | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | t-butyldiphenylsilyloxy-L-serine methyl ester | 19.7 g, yield 85% | COC([C@@H](NO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CO)=O | C20H27NO4Si
